US07799762B2
To a solution of a commercially available racemic 2-hydroxyoctanoic acid mixture (1.00 g, 6.2 mmol.) in HPLC-grade ethylacetate (30 ml), there are added in succession benzyl bromide (2.22 ml; 18.7 mmol.), triethylamine (2.6 ml, 18.7 mmol.) and tetrabutylammonium iodide (1.15 g; 3.12 mmol.). The solution is stirred for 18 hours at room temperature and the solvent is thereafter evaporated. The residue is taken up into ether and the organic layer is then washed with a saturated solution of NaHCO3 and H2O (2×). The organic layer is dried over MgSO4, filtered and evaporated to yield crude benzyl 2-hydroxyoctanoate (Rf=0.57 in a 3/1 petroleum ether/EtOAc mixture; phosphomolybdinium compound and U.V. color development agent)

reactant | racemic 2-hydroxyoctanoic acid | 6.2 mmol, 1.00 g | OC(C(=O)O)CCCCCC | C8H16O3
reactant | benzyl bromide | 18.7 mmol, 2.22 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 18.7 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
catalyst | tetrabutylammonium iodide | 3.12 mmol, 1.15 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | benzyl 2-hydroxyoctanoate | OC(C(=O)OCC1=CC=CC=C1)CCCCCC | C15H22O3
